US07253286B2
N-(4-(6-Cyano-7-benzyloxy-4-quinolyl)oxyphenyl)-N′-(4-methoxyphenyl)urea
After adding 1-methylpyrrolidone (3.4 ml) and diisopropylethylamine (3.6 ml, 20.78 mmol) to N-(4-hydroxyphenyl)-N′-(4-methoxyphenyl)urea (4.25 g, 16.46 mmol), the mixture was heated and stirred at 130° C. to complete dissolution, and then 4-chloro-6-cyano-7-benzyloxyquinoline (5.10 g, 17.32 mmol) was added and the mixture was stirred at 130° C. for 1.5 hours and at 150° C. for 1 hour. Upon addition of diisopropylethylamine (1.2 ml, 6.93 mmol), the mixture was further stirred for 1 hour. After cooling and adding tetrahydrofuran and ethyl acetate, the mixture was washed with saturated sodium bicarnobate water and saturated brine and dried over magnesium sulfate, and the solvent was distilled off under reduced pressure. The obtain crystals were washed with diethyl ether/hexane, acetonitrile/diethyl ether/hexane, methanol and dimethylsulfoxide/water, in that order. The obtained crystals were dissolved in tetrahydrofuran, filtered with silica gel (200 cc silica gel) and flushed with 3000 ml of tetrahydrofuran, and the solvent was distilled off under reduced pressure. The crystals were then washed with diethyl ether, acetonitrile and diethyl ether:ethanol=5:1 and dried by aspiration to obtain the title compound (3.70 g, 7.1627 mmol, 43.52%) as brown crystals.

reactant | 1-methylpyrrolidone | 3.4 ml | CN1C(CCC1)=O | C5H9NO
reactant | diisopropylethylamine | 20.78 mmol, 3.6 ml | C(C)(C)N(CC)C(C)C | C8H19N
reactant | N-(4-hydroxyphenyl)-N′-(4-methoxyphenyl)urea | 16.46 mmol, 4.25 g | OC1=CC=C(C=C1)NC(=O)NC1=CC=C(C=C1)OC | C14H14N2O3
reactant | 4-chloro-6-cyano-7-benzyloxyquinoline | 17.32 mmol, 5.10 g | ClC1=CC=NC2=CC(=C(C=C12)C#N)OCC1=CC=CC=C1 | C17H11ClN2O
reactant | diisopropylethylamine | 6.93 mmol, 1.2 ml | C(C)(C)N(CC)C(C)C | C8H19N
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | N-(4-(6-Cyano-7-benzyloxy-4-quinolyl)oxyphenyl)-N′-(4-methoxyphenyl)urea | 7.1627 mmol, 3.70 g, 43.52% | C(#N)C=1C=C2C(=CC=NC2=CC1OCC1=CC=CC=C1)OC1=CC=C(C=C1)NC(=O)NC1=CC=C(C=C1)OC | C31H24N4O4
